US05998437
To 4.4 g of 5-nitro-1-(3-phthalimidopropyl)-indole was added 200 ml of dimethylformamide, further was added 0.15 g of 10% palladium-carbon and hydrogenized at 65° C., under the pressure of 4 kg/cm2, for 7 hours. After the reaction was finished, the reaction mixture was filtrated, and the solvent was removed by distillation under reduced pressure. The thus obtained residue was treated to a silica column chromatography (eluent: 3% methanol/dichloromethane) to obtain 3.4 g of 5-amino-1-(3-phthalimidopropyl)indole in the form of brown needle crystals.

reactant | 5-nitro-1-(3-phthalimidopropyl)-indole | 4.4 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C19H15N3O4
catalyst | palladium-carbon | 0.15 g | [C].[Pd]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-amino-1-(3-phthalimidopropyl)indole | 3.4 g | NC=1C=C2C=CN(C2=CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C19H17N3O2
